US05362750
Preparation of 4,5-dihydroxy-9,10-dihydro-9,10-dioxo-2-anthracenecarboxylic acid butyl ester
7.4 g (0.02 mole) of 4,5-bis(acetoxy)-9,10-dihydro-9,10-dioxo-2-anthracenecarboxylic acid are dissolved in 150 ml of butanol. Gaseous HCl is bubbled through the obtained solution until saturation. The reaction mixture is left to react for half an hour at room temperature, then it is heated to 60°-70° C. for 3 hours, while continuing HCl bubbling. The desired product precipitates, which is cooled, filtered and crystallized from ethyl acetate.

reactant | 4,5-bis(acetoxy)-9,10-dihydro-9,10-dioxo-2-anthracenecarboxylic acid | 0.02 mole, 7.4 g | C(C)(=O)OC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC(C)=O)=O)C(=O)O | C19H12O8
reactant | HCl | Cl | ClH
solvent | butanol | 150 ml | C(CCC)O | C4H10O
product | 4,5-dihydroxy-9,10-dihydro-9,10-dioxo-2-anthracenecarboxylic acid butyl ester | C(CCC)OC(=O)C1=CC=2C(C3=CC=CC(=C3C(C2C(=C1)O)=O)O)=O | C19H16O6
